US07683091B2
N-[(5-{[(4-tert-Butylphenyl)sulfonyl]amino}-1H-indol-1-yl)acetyl]-L-phenylalanine
The title compound was prepared from ethyl N-[(5-nitro-1H-indol-1-yl)acetyl]-L-phenylalaninate and 4-tert-butylphenylsulfonyl chloride following the procedures of Example 10 Step 4 & Step 5: MS (ESI) m/z 534; MS (ESI) m/z 532.

reactant | ethyl N-[(5-nitro-1H-indol-1-yl)acetyl]-L-phenylalaninate | [N+](=O)([O-])C=1C=C2C=CN(C2=CC1)CC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OCC | C21H21N3O5
reactant | 4-tert-butylphenylsulfonyl chloride | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
product | N-[(5-{[(4-tert-Butylphenyl)sulfonyl]amino}-1H-indol-1-yl)acetyl]-L-phenylalanine | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C=C2C=CN(C2=CC1)CC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C29H31N3O5S
